US06962934B2
Preparation of N-[(2S)-2-amino-3-phenylpropyl]-L-alanyl-N1-isobutyl-L-valinamide
N-[(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropyl]-L-alanyl-N1-isobutyl-L-valinamide (84 mg, 0.176 mmol) is stirred with 1 mL of trifluoroacetic acid and 3 mL of dichloromethane for 30 min. It is then concentrated on a rotary evaporator and then neutralized with several mL of saturated aqueous sodium bicarbonate. The product is taken up in 70 mL of ethyl ether, washed with several more mL of bicarbonate solution, and then dried over anhydrous sodium sulfate. Concentration from ethyl ether, and then from absolute ethanol, afforded 75 mg of a slightly yellow oil, whose NMR spectrum was consistent with the title compound, along with a small amount of residual ethanol. NMR (CDCl3) δ 7.96 (d, J=9 Hz, 1H), 7.3-7.17 (m, 5H), 6.88 (br t, 1H), 4.13 (m, 1H), 3.27 (m, 1H), 3.13 (m, 1H), 3.05 (m, 1H), 2.94 (m, 1H), 3.83 (m, 2H), 2.7 (dd, 1H), 2.57 (dd, 1H), 2.08 (m, 1H), 1.72 (m, 1H), 1.31 (d, J=7 Hz, 3H), 0.93-0.86 (overlapping d, 12H).

reactant | N-[(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropyl]-L-alanyl-N1-isobutyl-L-valinamide | 0.176 mmol, 84 mg | C(C)(C)(C)OC(=O)N[C@H](CN[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)NCC(C)C)CC1=CC=CC=C1 | C26H44N4O4
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | N-[(2S)-2-amino-3-phenylpropyl]-L-alanyl-N1-isobutyl-L-valinamide | N[C@H](CN[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)NCC(C)C)CC1=CC=CC=C1 | C21H36N4O2
